US07619100B2
Referential Example 1-2 1-(Cyclopropylcarbonyl)piperazine
In 100 mL of ethanol was dissolved benzyl 4-(cyclopropylcarbonyl)piperazine-1-carboxylate (3.00 g, 10.4 mmol), and 1.5 g of 10% palladium-carbon was added thereto, followed by stirring at room temperature under hydrogen atmosphere overnight. The palladium-carbon was removed by filtration, and the filtrate was evaporated to give the title compound (1.50 g, 97.3%) as a colorless oil.

reactant | benzyl 4-(cyclopropylcarbonyl)piperazine-1-carboxylate | 10.4 mmol, 3.00 g | C1(CC1)C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H20N2O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
product | 1-(Cyclopropylcarbonyl)piperazine | 1.50 g, 97.3% | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
